US07235574B2
i) 4-(4-2H-tetrazol-5-yl-butyl)-phenol
450 mg (1.94 mmol) 5-(4-(4-methoxy-phenyl)-butyl)-2H-tetrazole and 1.5 ml 48% aqueous hydrobromic acid were stirred at 80° C. for 17 h. The reaction mixture was adjusted to pH=4 by addition of conc. NaOH and the aqueous phase discarded. Purification of the undissolved residue by HPLC-MS (methanol/water 7:3, pH=2.3) gave 220 mg (52%) of the title compound.

reactant | 5-(4-(4-methoxy-phenyl)-butyl)-2H-tetrazole | 1.94 mmol, 450 mg | COC1=CC=C(C=C1)CCCCC=1N=NNN1 | C12H16N4O
reactant | hydrobromic acid | 1.5 ml | Br | BrH
reactant | NaOH | [OH-].[Na+]
product | 4-(4-2H-tetrazol-5-yl-butyl)-phenol | 220 mg, 52% | N=1NN=NC1CCCCC1=CC=C(C=C1)O | C11H14N4O
